US07947683B2
4-(4-methyl-5-phenyl-4H-1,2,4-triazol-3-yl)butanal
To a solution of 4-methyl-3-(4-penten-1-yl)-5-phenyl-4H-1,2,4-triazole (196 mg, 0.86 mmol) in THF/H2O (7.5/1.5 ml) were added OsO4 (4% solution in water, 0.04 mmol) and NalO4 (2.6 mmol). The solution was stirred o.n. at r.t. Water was added and product was extract with DCM. The organic phase was separated, dried over Na2SO4 and filtered. Volatiles were evaporated in vacuo to give 178 mg of the title compound as an oil, which was used in the subsequent step without further purification.

reactant | 4-methyl-3-(4-penten-1-yl)-5-phenyl-4H-1,2,4-triazole | 0.86 mmol, 196 mg | CN1C(=NN=C1C1=CC=CC=C1)CCCC=C | C14H17N3
reactant | Water | O | H2O
solvent | THF H2O | 1.5 ml | C1CCOC1.O
catalyst | OsO4 | 0.04 mmol | O=[Os](=O)(=O)=O
product | 4-(4-methyl-5-phenyl-4H-1,2,4-triazol-3-yl)butanal | 178 mg | CN1C(=NN=C1C1=CC=CC=C1)CCCC=O | C13H15N3O
